US03993660
In the manner given in Example 5, a solution of 5-isopropylsulfonyl-2'-fluoro-2-[3-(phthalimidomethyl)-5-propyl-4H-1,2,4-triazol-4-yl]benzophenone in methanol was heated with hydrazine hydrate to give 1-propyl-8-isopropylsulfonyl-6-(o-fluorophenyl)-4H-s-triazolo[4,3-a][1,4]-benzodiazepine.

reactant | 5-isopropylsulfonyl-2'-fluoro-2-[3-(phthalimidomethyl)-5-propyl-4H-1,2,4-triazol-4-yl]benzophenone | C(C)(C)S(=O)(=O)C=1C=CC(=C(C(=O)C2=C(C=CC=C2)F)C1)N1C(=NN=C1CCC)CN1C(C=2C(C1=O)=CC=CC2)=O | C30H27FN4O5S
reactant | hydrazine hydrate | O.NN
solvent | methanol | CO | CH4O
product | 1-propyl-8-isopropylsulfonyl-6-(o-fluorophenyl)-4H-s-triazolo[4,3-a][1,4]-benzodiazepine | C(CC)C1=NN=C2N1C1=C(C(=NC2)C2=C(C=CC=C2)F)C=C(C=C1)S(=O)(=O)C(C)C | C22H23FN4O2S
